US05514680
To 30 mL of trifluoroacetic anhydride (Aldrich used as received) was added 10.0 g (39.8 mmol) of 3,4-dibromoaniline (Lancaster, used as received) in portions at 0° C. with stirring. The resultant mixture was stirred at room temperature for 2.5 h, then poured into ice-H2O (about 300 mL) with stirring. The solid was collected by vacuum filtration, washed with H2O (5×20 mL), and dried at 40° C. under 1 mmHg for 16 h to give 13.0 g (94%) of 3,4-dibromo-(trifluoroacetamido)benzene as an off-white powder, which was used for the next reaction without further purification. 1H NMR (DMSO-d6): 11.474 (s, 1H), 8.098 (s, 1H), 7.935 (d, 1H, J=8.7 Hz), 7.607 (d, 1H, J=8.7 Hz).

reactant | trifluoroacetic anhydride | 30 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3,4-dibromoaniline | 39.8 mmol, 10.0 g | BrC=1C=C(N)C=CC1Br | C6H5Br2N
product | 3,4-dibromo-(trifluoroacetamido)benzene | 13.0 g, 94% | BrC=1C=C(C=CC1Br)NC(C(F)(F)F)=O | C8H4Br2F3NO
